US04487768
Trifluoroacetic acid (18 ml) was added to a suspension of 7-[2-t-butoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-azidomethyl-3-cephem-4-carboxylic acid (syn isomer) (4.6 g) in methylene chloride (10 ml) and anisole (5 ml), and the mixture was stirred for 7 hours at ambient temperature. The reaction mixture was added dropwise to diisopropyl ether (200 ml) and precipitates were collected by filtration. The precipitates were added to a mixture of water and ethyl acetate, and the mixture was adjusted to pH 7.0 with saturated aqueous solution of sodium bicarbonate. The separated aqueous layer was adjusted to pH 3.0 with 10% hydrochloric acid. The precipitates were collected by filtration and successively washed with water to give 7-[2-carboxymethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-azidomethyl-3-cephem-4-carboxylic acid (syn isomer). (2.7 g).

reactant | Trifluoroacetic acid | 18 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-azidomethyl-3-cephem-4-carboxylic acid | 4.6 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O)C1=NSC(=N1)N | C18H21N9O7S2
reactant | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-azidomethyl-3-cephem-4-carboxylic acid | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O)C1=NSC(=N1)N | C14H13N9O7S2
